US06096758
9. 2,3-Dimethyl-8-{2-[(2-methylsulfanylethoxy)carbonylamino]-6-methylbenzylamino}imidazo[1,2-a]-pyridine hemifumarate
A 20% strength solution of phosgene in toluene (2.8 ml) is diluted with anhydrous dichloromethane (15 ml) and cooled to 0° C. A solution of 2-methylsulfanylethanol (0.46 ml) and N-methylmorpholine (0.59 ml) in anhydrous dichloromethane (10 ml) is then added dropwise. The mixture is kept at 0° C. for a further 15 min, then warmed to RT and stirred for a further 30 min. A suspension of 8-(2-amino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine (1.0 g) and triethylamine (0.49 ml) in anhydrous dichloromethane (30 ml) is then added dropwise to the solution and it is additionally stirred at RT for 1 h. Aqueous sodium bicarbonate solution (70 ml) is then added and the mixture is stirred for a further 30 min. The organic phase is separated off and the aqueous phase is extracted with dichloromethane (3×50 ml). The combined organic phases are washed with water (50 ml), dried over magnesium sulfate and concentrated. The residue is taken up in a hot solution of fumaric acid (400 mg) in acetone (30 ml) and cooled to 4° C. The precipitate is filtered off and additionally precipitated from a little hot acetone by stirring. After drying in a high vacuum, 0.65 g (47%) of the title compound is isolated as a pale beige crystallizate. M.p. 174-176° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-methylsulfanylethanol | 0.46 ml | CSCCO | C3H8OS
reactant | N-methylmorpholine | 0.59 ml | CN1CCOCC1 | C5H11NO
reactant | 8-(2-amino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 1.0 g | NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H20N4
reactant | sodium bicarbonate | 70 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 2.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
product | 2,3-Dimethyl-8-{2-[(2-methylsulfanylethoxy)carbonylamino]-6-methylbenzylamino}imidazo[1,2-a]-pyridine hemifumarate | 0.65 g, 47% | C(\C=C\C(=O)O)(=O)O.CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OCCSC)C1C.CC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OCCSC)C1C | InChI=1S/2C21H26N4O2S.C4H4O4/c2*1-14-7-5-8-18(24-21(26)27-11-12-28-4)17(14)13-22-19-9-6-10-25-16(3)15(2)23-20(19)25;5-3(6)1-2-4(7)8/h2*5-10,22H,11-13H2,1-4H3,(H,24,26);1-2H,(H,5,6)(H,7,8)/b;;2-1+
